US07230020B2
Synthesis of 3-chloro-2-methyl-N-(2-methyl-quinolin-6-yl)-benzenesulfonamide, STX 935 (KRB01061)
To a solution of 3-chloro-2-methylbenzenesulphonyl chloride (149 mg, 0.664 mmol) in dichloromethane (4 mL) was added pyridine (130 μL, 1.58 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-amino-2-methylquinoline (100 mg, 0.632 mmol) was added. The resulting mixture was stirred for 90 min at room temperature, then saturated NaHCO3 solution (10 mL) was added and the mixture was extracted into ethyl acetate (20 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford an off-white solid (148 mg, 68%), single spot at Rf 0.64 (ethyl acetate). mp 178.1-178.4° C., HPLC purity 99+% (tR 2.27 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 7.93-7.89 (3H, m), 7.53 (1H, d, J=8.2 Hz), 7.44 (1H, d, J=2.5 Hz), 7.31-7.24 (2H, m), 7.18 (1H, t, J=8.1 Hz), 2.73 (3H, s), 2.69 (3H, s). LCMS: 345.17 (M−). FAB-MS (MH+, C17H15CIN2O2S): calcd 347.0621, found 347.0622.

reactant | 3-chloro-2-methylbenzenesulphonyl chloride | 0.664 mmol, 149 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | pyridine | 1.58 mmol, 130 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-methylquinoline | 0.632 mmol, 100 mg | NC=1C=C2C=CC(=NC2=CC1)C | C10H10N2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-chloro-2-methyl-N-(2-methyl-quinolin-6-yl)-benzenesulfonamide | 148 mg, 68% | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1C=C2C=CC(=NC2=CC1)C)C | C17H15ClN2O2S
